US04005217
Ethoxycarbonyl isothiocyanate (5.6 g) was added dropwise, with cooling to maintain the temperature between 15° and 20° C., to a vigorously stirred solution of N-(2-amino-4-methoxycarbonylaminophenyl)-2-dimethylaminoacetamide (10.75 g) in dry acetone (200 ml). The resulting mixture was stirred for a further 30 minutes and then poured into an excess of water. The precipitated solid was filtered off to give crude 1-ethoxycarbonyl-3-(2-dimethylaminoacetamido-5-methoxycarbonylaminophenyl)thiourea, m.p. 171°-172° C, which was then dissolved in the minimum of ethanol. Diethyl ether (300 ml) was added, followed by an excess of a saturated solution of hydrogen chloride in diethyl ether. The precipitated solid was filtered off and recrystallised from methanol/ethanol to give 1-ethoxycarbonyl-3-(2-dimethylaminoacetamido-5-methoxycarbonylaminophenyl)thiourea hydrochloride (7.5 g), m.p. 211°-213° C. (with decomposition).

reactant | Ethoxycarbonyl isothiocyanate | 5.6 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | N-(2-amino-4-methoxycarbonylaminophenyl)-2-dimethylaminoacetamide | 10.75 g | NC1=C(C=CC(=C1)NC(=O)OC)NC(CN(C)C)=O | C12H18N4O3
reactant | water | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-ethoxycarbonyl-3-(2-dimethylaminoacetamido-5-methoxycarbonylaminophenyl)thiourea hydrochloride | 7.5 g | Cl.C(C)OC(=O)NC(=S)NC1=C(C=CC(=C1)NC(=O)OC)NC(CN(C)C)=O | InChI=1S/C16H23N5O5S.ClH/c1-5-26-16(24)20-14(27)19-12-8-10(17-15(23)25-4)6-7-11(12)18-13(22)9-21(2)3;/h6-8H,5,9H2,1-4H3,(H,17,23)(H,18,22)(H2,19,20,24,27);1H
